US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol), 2-(aminomethyl)-1N-Boc-pyrrolidine (20.9 mg, 0.104 mmol), 4-methylmorpholine (28.1 mg, 0.278 mmol), and HATU (34.4 mg, 0.090 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 25 mL/min, 220 nM, product retention=32.9 min) to provide (R/S)-tert-butyl 2-((2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)methyl)pyrrolidine-1-carboxylate (28 mg, 0.046 mmol, 65.6% yield): LCMS=614.3 [M+H]+. The (R/S)-tert-butyl 2-((2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)methyl)pyrrolidine-1-carboxylate (28 mg, 0.046 mmol) was added to TFA (1 mL, 12.98 mmol) and stirred for 30 min. The reaction mixture was concentrated to provide (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(pyrrolidin-2-ylmethyl)acetamide, TFA (24 mg, 0.037 mmol, 80% yield): LCMS=514.3 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.18 (2 H, d, J=7.92 Hz), 7.54-7.79 (7 H, m), 5.21 (1 H, s), 3.66-3.81 (1 H, m), 3.48-3.62 (2 H, m), 3.16-3.30 (2 H, m), 1.91-2.18 (3 H, m), 1.70-1.82 (1 H, m); HPLC peak RT=8.3 min (Condition A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 2-(aminomethyl)-1N-Boc-pyrrolidine | 0.104 mmol, 20.9 mg | NCC1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-tert-butyl 2-((2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)methyl)pyrrolidine-1-carboxylate | 0.046 mmol, 28 mg, 65.6% yield | OC(C(=O)NCC1N(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C30H30F3N5O6
